US07632829B2
(+/−)-cis-(3-Methoxy-tetrahydro-pyran-4-yl)-amine
A slurry of 3-methoxy-tetrahydro-pyran-4-one (0.4 g, 3 mmol—described in WO03/093266(A1)), ammonium formate (1.9 g, 30 mmol), 10% palladium on charcoal (1 g) in water:MeOH (1:5, 6 ml) was stirred overnight after which time it was filtered through Hyflo, the mixture concentrated to remove the MeOH, the residue taken up in Et2O, dried (Na2SO4) and concentrated to afford the title product (0.2 g, 49%) as a yellow oil (contaminated by 10-20% of the trans isomer). 1H NMR (300 MHz, CDCl3) (cis isomer) δ 1.60-1.80 (2H, m), 2.95-3.00 (1H, m), 3.22-3.43 (5H, m). 3.82-3.95 (1H, m), 4.01-4.13 (1H, m).

reactant | 3-methoxy-tetrahydro-pyran-4-one | 3 mmol, 0.4 g | COC1COCCC1=O | C6H10O3
reactant | ammonium formate | 30 mmol, 1.9 g | C(=O)[O-].[NH4+]
catalyst | palladium on charcoal | 1 g | [Pd] | Pd
solvent | water MeOH | 6 ml | O.CO
product | (+/−)-cis-(3-Methoxy-tetrahydro-pyran-4-yl)-amine | 0.2 g, 49% | CO[C@@H]1COCC[C@@H]1N | C6H13NO2
